US07220725B2
c. DCC/HOBt Coupling Procedure
Boc protected amino acid (14.2 mmole) in DCM (35 ml) is cooled to 0° C. HOBt.H2O (12.9 mmole, 1.75 g) and DCC (15.5 mmole, 3.2g) are added to a reaction mixture and vigorously stirred for 1 h. Deprotected peptide (after removal of the Boc group) dissolved in DCM (20 ml) and TEA (18.1 mmole) is introduced and the mixture is stirred for an additional 30 min. at 0° C. The cooling bath is removed and the reaction is left overnight at room temperature.

reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 12.9 mmole, 1.75 g | O | H2O
reactant | DCC | 15.5 mmole, 3.2g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
product | DCC HOBt | C1CCC(CC1)N=C=NC2CCCCC2.C=1C=CC2=C(C1)N=NN2O | InChI=1S/C13H22N2.C6H5N3O/c1-3-7-12(8-4-1)14-11-15-13-9-5-2-6-10-13;10-9-6-4-2-1-3-5(6)7-8-9/h12-13H,1-10H2;1-4,10H
